Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Sulfa (Sulfonamide Antibiotics)
 
Attending: ___.
 
Chief Complaint:
Planned colonoscopy 
 
Major Surgical or Invasive Procedure:
Colonoscopy
Polypectomy

 
Past Medical History:
1) 21-hydroxylase deficiency.   
2) CVA at ___ of age w/ resultant mental retardation.  
3) h/o diverticulitis since age ___.
4) h/o Guillain ___ syndrome in ___.  
 
Social History:
___
Family History:
(from previous discharge summary ___ Father has AAA.
 
Physical Exam:
Admission Exam: 
VITALS: ___ 1226 Temp: 98.1 PO BP: 127/84 HR: 100 RR: 18 O2 
sat: 97% O2 delivery: RA 
GENERAL: Alert and in no apparent distress, sitting on bed, 
appears comfortable, conversant
EYES: Anicteric
ENT: Ears and nose without visible erythema, masses, or trauma. 
Oropharynx without visible lesion, erythema or exudate. Moist 
mucus membranes.
CV: Heart regular, no murmur, no S3, no S4.  No JVD.
RESP: Lungs clear to auscultation with good air movement 
bilaterally.  Breathing is non-labored on room air.
GI: Abdomen soft, non-distended, non-tender to palpation. Bowel 
sounds present.
GU: No suprapubic fullness or tenderness to palpation, no Foley
MSK: Moves all extremities, no edema
SKIN: No rashes or ulcerations noted
NEURO: Alert, oriented to person and place, not to 
___, then looked up the date), face symmetric, speech 
fluent
PSYCH: pleasant, appropriate affect

Discharge Exam: 
GENERAL: Alert and in no apparent distress, appears comfortable, 
conversant
EYES: Anicteric
ENT: Ears and nose without visible erythema, masses, or trauma. 
Oropharynx without visible lesion, erythema or exudate. Moist 
mucus membranes.
CV: Heart regular, no murmur, no S3, no S4.  No JVD.
RESP: Lungs clear to auscultation with good air movement 
bilaterally. Breathing is non-labored on room air.
GI: Abdomen soft, non-distended, non-tender to palpation.  Bowel 
sounds present.
GU: No suprapubic fullness or tenderness to palpation, no Foley
MSK: Moves all extremities, no edema
SKIN: No rashes or ulcerations noted
NEURO: Alert, oriented to person and place, face symmetric, 
speech fluent
PSYCH: pleasant, appropriate affect
 
Pertinent Results:
___ 03:08PM   GLUCOSE-103* UREA N-17 CREAT-1.1 SODIUM-138 
POTASSIUM-4.0 CHLORIDE-101 TOTAL CO2-25 ANION GAP-12
___ 03:08PM   estGFR-Using this
___ 03:08PM   WBC-8.2 RBC-5.16 HGB-15.9 HCT-46.4 MCV-90 
MCH-30.8 MCHC-34.3 RDW-12.0 RDWSD-39.7
___ 03:08PM   PLT COUNT-358
 
Brief Hospital Course:
Mr. ___ is a ___ male with intellectual disability, 
diverticulosis, history of adrenal hyperplasia, history of 
___ syndrome, who presented
from his group home for inpatient preparation for screening 
colonoscopy.  He has no complaints currently and has not had 
changes in his bowel habits prior to admission.

# Need for screening colonoscopy: Last colonoscopy was in ___ 
and unremarkable except for diverticulosis of descending colon. 
Denies concerning symptoms such as changes in bowel habits or 
weight loss. He does not recall any family history.
- Clear liquids, NPO @ midnight before colonoscopy then back to 
regular diet after. He completed Moviprep and underwent 
uneventful colonoscopy on ___ notable for moderate 
diverticulosis and sigmoid polyp without signs of bleeding 
status post polypectomy. The polyp appeared benign in appearance 
but final biopsy results will be sent to referring provider for 
___. 

CHRONIC/STABLE PROBLEMS:
# Congenital adrenal hyperplasia: Salt-wasting type.  Managed by 
his PCP.
- Continued home Fludrocortisone 0.1mg daily in AM and 
Dexamethasone 0.5mg daily in AM

# History of TURP: Asymptomatic.
- Continued home Finasteride 5mg QHS and Tamsulosin 0.4mg QHS

# Intellectual disability: He works at ___ and lives in 
assisted living group home.  Brother is HCP and mother is 
secondary HCP.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Dexamethasone 0.5 mg PO DAILY 
2. Fludrocortisone Acetate 0.1 mg PO DAILY 
3. Vitamin D ___ UNIT PO DAILY 
4. Finasteride 5 mg PO QHS 
5. Tamsulosin 0.4 mg PO QHS 

 
Discharge Medications:
1.  Dexamethasone 0.5 mg PO DAILY  
2.  Finasteride 5 mg PO QHS  
3.  Fludrocortisone Acetate 0.1 mg PO DAILY  
4.  Tamsulosin 0.4 mg PO QHS  
5.  Vitamin D ___ UNIT PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Polyp in the sigmoid colon
Moderate Diverticulosis of the descending colon and sigmoid 
colon 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,
 
 It was a pleasure taking part in your care here at ___! 

 Why was I admitted to the hospital? 
 - You were admitted to the hospital for a planned routine 
colonoscopy. 

 What was done for me while I was in the hospital? 
 - You received bowel prep for your colonoscopy which was done 
today. They found a polyp in your colon which appeared benign, 
but the biopsy results will take a couple of weeks to result. 
Please follow up with your PCP to discuss results of the biopsy. 
We also noted diverticulosis in your colon but no signs of 
bleeding or infection requiring any specific treatment. 

 What should I do when I leave the hospital? 
 - Make sure you don't operate any heavy machinery for the next 
___ hours and stay away from heavy lifting or strenuous exercise 
for at least the next day. 
 - Please avoid NSAIDs like Alleve or Naprosyn or other 
medicines that increase your risk of bleeding for the next week. 

 - Please follow up with your Primary Care Doctor to discuss the 
final results of your biopsy. 
 - Please call your doctor or present to the Emergency 
Department if you develop any signs of bleeding from below or if 
you develop dark tarry stool.  

Sincerely, 
Your ___ Care Team 
It was a pleasure to participate in your care.
 
Followup Instructions:
___